US04013645
3-Acetoxymethyl-7β-aminoceph-3-em-4-carboxylic acid (50.0 g) was dissolved in acetic anhydride (75 ml.) and formic acid (400 ml.) with stirring at 20° C. When complete solution was obtained (~ 5 min.) the solvents were evaporated (rotary evaporator, oil-pump), leaving a gum which was shaken with ethyl acetate (250 ml.). The insoluble material was removed by filtration and the filtrate was evaporated to dryness leaving a gum which was triturated under ether and petroleum-ether (b.p. 40°-60°), giving 3-acetoxymethyl-7β-formamidoceph-3-em-4-carboxylic acid as a pale yellow powder (43.6 g.), TLC RF 0.19, [α]D20 + 113.5° (c 1.00, dioxan), λ max (pH6 buffer) 259 nm. (ε 8,400), νmax (Nujol) 1772 (β-lactam) 1748 (acetate), 1708 (carboxylic acid), 1654, 1548 cm.-1 (amide), τ (D2O with NaHCO3)1.67 (0.9-proton singlet: CHO), 1.75 (0.1-proton singlet: CHO), 4.20 (1-proton doublet, J 4.5 Hz.: C-7 H), 4.80 (1-proton doublet, J4.5 Hz.: C-6 H), 5.00, 5.26 [two 1-proton doublets (branches of a quartet), J 13 Hz: C-3 CH2 ], 6.24 6.64 [two 1-proton doublets (branches of a quartet), J 18 Hz.: C-2 H2 ] 7.86 (3-proton singlet: CH3CO) (there is evidence for "cis" and "trans" forms in the secondary amide part).

reactant | 3-Acetoxymethyl-7β-aminoceph-3-em-4-carboxylic acid | 50.0 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2N)=O | C10H12N2O5S
reactant | formic acid | 400 ml | C(=O)O | CH2O2
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic anhydride | 75 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetoxymethyl-7β-formamidoceph-3-em-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC=O)=O | C11H12N2O6S
